US08609855B2
Propan-2-yl 4-amino-3,6-dichloro-5-fluoropicolinate
Propan-2-yl 4-amino-6-chloro-5-fluoropicolinate (1.191 g, 5.12 mmol) was almost completely dissolved in CH2Cl2 (40 mL). Water (40 mL) was added. Chlorine was bubbled through the solution for 5 min. After 30 min, an aliquot of the reaction mixture was analyzed by GC, showing desired product and only 1.7% starting material. The aqueous layer was separated and extracted with CH2Cl2 (50 mL). The combined organic extracts were washed with satd aq NaHCO3 solution and then brine. The extracts were dried (MgSO4) and concentrated under reduced pressure to yield an orange oil. Flash chromatography (120 g silica column; 0-50% EtOAc-hexane gradient) afforded a bright yellow crystalline solid (394 mg, 28%): 1H NMR (400 MHz, CDCl3) δ 5.29 (septet, J=6.3 Hz, 1H, CHMe2), 5.19 (br s, 2H, NH2), 1.40 (d, J=6.3 Hz, 6H, CHMe2); 13C{1H} NMR (101 MHz, CDCl3) δ 163.2 (CO2R), 143.3 (d, JF-C=5 Hz, C2), 142.8 (d, JF-C=270 Hz, C5), 141.0 (d, JF-C=26 Hz, C4), 135.3 (d, JF-C=17 Hz, C6), 114.9 (s, C3), 70.6 (CHMe2), 21.6 (s, Me); 19F NMR (376 MHz, CDCl3) δ −136.5.

reactant | Propan-2-yl 4-amino-6-chloro-5-fluoropicolinate | 5.12 mmol, 1.191 g | NC1=CC(=NC(=C1F)Cl)C(=O)OC(C)C | C9H10ClFN2O2
reactant | Water | 40 mL | O | H2O
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
reactant | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | Propan-2-yl 4-amino-3,6-dichloro-5-fluoropicolinate | 394 mg, 28% | NC1=C(C(=NC(=C1F)Cl)C(=O)OC(C)C)Cl | C9H9Cl2FN2O2
